US06344449B1
a) 4-[[4-(1,1-dimethylethoxycarbonyl)-1-piperazinyl]carbonyl]-1-methylpiperazine
To a solution of 1.1 g of triphosgene (3.7 mMol) in 20 ml of dichloromethane, a mixture of 1.2 g (10 mMol) of 1-methyl-piperazine, 0.38 ml (22 mMol) of DIEA and 35 ml of dichloromethane was added dropwise at room temperature within 30 minutes, and then the solution of 1.9 g (10 mMol) of 1-(1,1-dimethylethoxycarbonyl)piperazine and 0.38 ml of DIEA in 20 ml dichloromethane were added. After stirring for an hour at room temperature, insoluble matter was filtered off and the filtrate evaporated down in vacuo. After purification of the raw product on silica gel (Amicon, 35-70 μm), using dichloromethane/methanol/conc. ammonia(80/20/1 v/v/v) for elution, 700 mg (22% of theory) of colourless crystals were obtained of Mp. 130° C.

reactant | triphosgene | 3.7 mMol, 1.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-methyl-piperazine | 10 mMol, 1.2 g | CN1CCNCC1 | C5H12N2
reactant | DIEA | 22 mMol, 0.38 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(1,1-dimethylethoxycarbonyl)piperazine | 10 mMol, 1.9 g | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
reactant | DIEA | 0.38 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 4-[[4-(1,1-dimethylethoxycarbonyl)-1-piperazinyl]carbonyl]-1-methylpiperazine | CC(C)(OC(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C)C | C15H28N4O3
